US04985444
A solution of sodium methoxide in methanol (28%, 411 mg) was added to a mixture of 3-(3-chloropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (436 mg) and methanol (4 ml) at room temperature. The reaction mixture was heated under reflux for 3 hours. After evaporating the solvent in vacuo, a saturated aqueous solution of sodium chloride (20 ml) was added to the residue and extracted with chloroform (20 ml×3). The combined extract was washed with a saturated aqueous solution of sodium chloride (20 ml), dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (10 g) using chloroform as an eluent and recrystallized from 95% EtOH to give 3-(3-methoxypyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (165 mg).

reactant | sodium methoxide | C[O-].[Na+]
reactant | 3-(3-chloropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 436 mg | ClC=1N=NC(=CC1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H11ClN4
solvent | methanol | 411 mg | CO | CH4O
solvent | methanol | 4 ml | CO | CH4O
product | 3-(3-methoxypyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 165 mg | COC=1N=NC(=CC1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C18H14N4O
